US05981776
Methyl 4-iodo-3-[2-[5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl]-1-propenyloxy]benzoate
Sodium methoxide (0.62 ml, 3.28 mmol) is added over 8 hours to a mixture of methyl 3-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-4-iodobenzoate (1.66 g, 3.28 mmol) and methyltriphenylphosphine bromide (1.63 g, 4.56 mmol) in THF (40 ml).

reactant | Sodium methoxide | 3.28 mmol, 0.62 ml | C[O-].[Na+]
reactant | methyl 3-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)methyloxy]-4-iodobenzoate | 3.28 mmol, 1.66 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)COC=1C=C(C(=O)OC)C=CC1I)C | C24H27IO4
reactant | methyltriphenylphosphine bromide | 4.56 mmol, 1.63 g | [Br-].CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | Methyl 4-iodo-3-[2-[5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl]-1-propenyloxy]benzoate | IC1=C(C=C(C(=O)OC)C=C1)OC=C(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H29IO3
